US04956371
N-(3,4-dimethoxybenzyl)-2-(3-methylphenyl) ethylamine (D1).
A solution of methyl 3,4-dimethoxyphenylacetate (18.5 g, 0.088 mole) and 2-(3-methylphenyl) ethylamine was heated at 180° for 1 h. The crude amide was dissolved in 50 ml of methanol and precipitated as fine needles with 150 ml of hexane to give the title compound (20.4 g, 74%). The mother liquor deposited more material which was recrystallized from toluene (charcoal) to give an additional 4.7 g (17%) of amide. The total yield of N-(3,4-dimethoxyphenylacetyl)-2-(3-methylphenyl) ethylamine, mp 101-102°, was 91%.

reactant | methyl 3,4-dimethoxyphenylacetate | 0.088 mole, 18.5 g | COC=1C=C(C=CC1OC)CC(=O)OC | C11H14O4
reactant | 2-(3-methylphenyl) ethylamine | CC=1C=C(C=CC1)CCN | C9H13N
solvent | methanol | 50 ml | CO | CH4O
product | N-(3,4-dimethoxybenzyl)-2-(3-methylphenyl) ethylamine | 20.4 g, 74% | COC=1C=C(CNCCC2=CC(=CC=C2)C)C=CC1OC | C18H23NO2
